US04426381
8-Bromo-7-fluoro-1-methyl-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a) quinoline-4-carboxylic acid
Then 600 mg (1.55 mmol) of ethyl 8-bromo-7-fluoro-1-methyl-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)quinoline-4-carboxylate separated by column chromatography was suspended in 50 ml of ethanol containing 1.2 grams (0.02 mol) of potassium hydroxide and the mixture was heated to reflux for 1.5 hours. The content was concentrated under reduced pressure and, after water was added to the residue, insoluble matters were filtered and removed. This was acidified with acetic acid and crystals separated therefrom were collected by filtration, washed with water and dried to give 520 mg (93.7 percent) of the title compound. Recrystallized from dimethyl formamide. Melting point 290° to 291° C. (decomposition). Elementary analysis calculated as C13H9BrFNO3S: C 43.59, H 2.53, N 3.91; Found: C 43.78, H 2.55, N 3.93.

reactant | ethyl 8-bromo-7-fluoro-1-methyl-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)quinoline-4-carboxylate | 1.55 mmol, 600 mg | BrC1=C(C=C2C(C(=C3N(C2=C1)C(CS3)C)C(=O)OCC)=O)F | C15H13BrFNO3S
reactant | ethanol | 0.02 mol, 50 ml, 1.2 grams | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
product | 8-Bromo-7-fluoro-1-methyl-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a) quinoline-4-carboxylic acid | 520 mg, 93.7 percent | BrC1=C(C=C2C(C(=C3N(C2=C1)C(CS3)C)C(=O)O)=O)F | C13H9BrFNO3S
